.include "NAND.sub"
.subckt OR node_a node_b node_out vdd gnd
X1 node_a node_a node_c vdd gnd NAND
X2 node_b node_b node_d vdd gnd NAND
X3 node_c node_d node_out vdd gnd NAND
.ends OR